US05512562
F. 6-Amino-7-hydroxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine
0.16 g (0.00053 mol) 7-hydroxy-3-methyl-6-nitro-1 -phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine was dissolved in 15 ml ethanol. 0.05 g 10%Pd/C-catalyst were added and hydrogenation was carried out at a burette apparatus for 2h. The catalyst was filtered off and the solution was concentrated in vacuo. The compound was obtained as a light brown powder.

reactant | 7-hydroxy-3-methyl-6-nitro-1 -phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.00053 mol, 0.16 g | OC1=C(C2=C(C(CN(CC2)C)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C17H18N2O3
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 6-Amino-7-hydroxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | NC1=C(C=CC=2C(CN(CCC21)C)C2=CC=CC=C2)O | C17H20N2O
